US08487108B2
Step 5. methyl 2-((R)-(3-chlorophenyl)((R)-1-(N′-cyano-N—((S)-1-cyclohexyl-3-(methylamino)propan-2-yl)carbamimidoyl)piperidin-3-yl)methoxy)ethylcarbamate
The methyl 2-((R)-(3-chlorophenyl)((R)-1-(N′-cyano-N—((S)-1-cyclohexyl-3-(N-methyl-N-(tert-butoxycarbonyl)amino)propan-2-yl)carbamimidoyl)piperidin-3-yl)methoxy)ethylcarbamate (8 mg, 0.0124 mmol) was dissolved in a solution of 4 N HCl/dioxane (5 mL). The reaction mixture was stirred at rt for 1 h and then concentrated in vacuo. The residue was purified by preparative HPLC to afford the product (4 mg, 59%).

reactant | methyl 2-((R)-(3-chlorophenyl)((R)-1-(N′-cyano-N—((S)-1-cyclohexyl-3-(N-methyl-N-(tert-butoxycarbonyl)amino)propan-2-yl)carbamimidoyl)piperidin-3-yl)methoxy)ethylcarbamate | 0.0124 mmol, 8 mg | ClC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CN(CCC1)C(N[C@@H](CC1CCCCC1)CN(C(=O)OC(C)(C)C)C)=NC#N | C33H51ClN6O5
solvent | HCl dioxane | 4 N, 5 mL | Cl.O1CCOCC1
product | methyl 2-((R)-(3-chlorophenyl)((R)-1-(N′-cyano-N—((S)-1-cyclohexyl-3-(methylamino)propan-2-yl)carbamimidoyl)piperidin-3-yl)methoxy)ethylcarbamate | 4 mg, 59% | ClC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CN(CCC1)C(N[C@@H](CC1CCCCC1)CNC)=NC#N | C28H43ClN6O3
